US03931313
Preparation of N-ethyl N-(3-pent-3-enyl)-dichloroacetamide.
In a similar procedure as Example I, 5.9 g. (0.052 mole) N-3-pentylidene ethylamine was reacted with 4.8 ml. (0.05 mole) dichloroacetyl chloride in 100 ml. diethyl ether and 7.2 ml. triethylamine. There was obtained 7.7 g. of the title compound, an oil, nD30 = 1.4826.

reactant | N-3-pentylidene ethylamine | 0.052 mole | CCC(CC)=NCC | C7H15N
reactant | dichloroacetyl chloride | 0.05 mole | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-ethyl N-(3-pent-3-enyl)-dichloroacetamide | C(C)N(C(C(Cl)Cl)=O)C(CC)=CC | C9H15Cl2NO
